US07507734B2
(d) 4-[5-(1H-Indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol
205 mg of 2-bromoaniline and 72 mg of anhydrous magnesium sulfate are suspended in 7 ml dimethylacetamide. 325 mg of 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-ethanone and 86.6 μl acetic acid are added and the reaction is degassed with argon. 330 mg of tripotassium phosphate and 61 mg of bis(tri-tert-butylphosphine) palladium (0) are added and the reaction is degassed with argon. The reaction is heated to 140° C. for 5 h. The solution is poured into water and extracted with ethyl acetate. The solvent is removed under reduced pressure. The product is purified by silica gel chromatography, eluting with a gradient of ethyl acetate in heptane. Yield 105 mg. LC-MS (ES+) 346 (M+H)+.

reactant | 2-bromoaniline | 205 mg | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | magnesium sulfate | 72 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-ethanone | 325 mg | OC1=C(C=C(C=C1C)C1=CC(=C(N=N1)OC)C(C)=O)C | C15H16N2O3
reactant | acetic acid | 86.6 μl | C(C)(=O)O | C2H4O2
solvent | dimethylacetamide | 7 ml | CC(=O)N(C)C | C4H9NO
product | 4-[5-(1H-Indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol | N1C(=CC2=CC=CC=C12)C=1C=C(N=NC1OC)C1=CC(=C(C(=C1)C)O)C | C21H19N3O2
